US05559111
a) 5-Hydroxy-1,4-benzodioxane-7-carboxylic acid ethyl ester
A solution of 0.2 ml of 1,2-dibromoethane in 4 ml of dimethylformamide is added dropwise, four times at 2 hour intervals, to a solution, stirred at 100° C., of 2 g of gallic acid ethyl ester and 6.5 g of caesium carbonate in 80 ml of dimethylformamide. After being stirred for a further 2 hours at 100° C. the reaction mixture is concentrated by evaporation and the residue is partitioned between diethyl ether and water. The organic phases are dried over sodium sulfate and concentrated by evaporation. The title compound is obtained from the residue by FC (50 g of silica gel, methylene chloride-methanol=8:2): Rf (methylene chloride/methanol=8:2)=0.39.

reactant | 1,2-dibromoethane | 0.2 ml | BrCCBr | C2H4Br2
reactant | gallic acid ethyl ester | 2 g | C(C)OC(C1=CC(O)=C(O)C(O)=C1)=O | C9H10O5
reactant | caesium carbonate | 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 5-Hydroxy-1,4-benzodioxane-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C2=C(OCCO2)C1)O | C11H12O5
